US05135937
50 g of 4-bromomethylbenzonitrile is dissolved in 350 ml of 1,3-dimethyl-2-imidazolidinone and stirred at 25° for 2 hours with 32.5 g of sodium azide. The mixture is subsequently combined with 500 ml of water under ice cooling, extracted twice with dichloromethane, washed with water, dried over sodium sulfate, concentrated to dryness under vacuum, and chromatographed on silica gel with hexane/ethyl acetate, thus obtaining 39 g of 4-azidomethylbenzonitrile as a colorless liquid.

reactant | 4-bromomethylbenzonitrile | 50 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | sodium azide | 32.5 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | 1,3-dimethyl-2-imidazolidinone | 350 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 4-azidomethylbenzonitrile | 39 g | N(=[N+]=[N-])CC1=CC=C(C#N)C=C1 | C8H6N4
